US07964645B2
Preparation of rac-({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-carbamic acid benzyl ester
Prepared in analogy to example 1.1 from rac-4-chlorobenzhydrylamine hydrochloride and benzyloxycarbonylamino-acetic acid (CA [1138-80-3]).

reactant | rac-4-chlorobenzhydrylamine hydrochloride | Cl.ClC1=CC=C(C(C2=CC=CC=C2)N)C=C1
reactant | benzyloxycarbonylamino-acetic acid | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
product | rac-({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC(NC(C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O)=O | C23H21ClN2O3
